US09216173B2
2-(2H-1,2,3-triazol-2-yl)pyrimidin-4-amine was prepared from 2-chloropyrimidin-4-amine using chemistry analogous to the synthesis of 6-methyl-4-(2H-1,2,3-triazol-2-yl)pyridin-2-amine (PrepEx 2.19 A). MS ESI calc'd. for C6H7N6 [M+H]+ 163. found 163. 1H NMR (500 MHz, DMSO-d6) δ 8.14 (d, J=5.5 Hz, 1H), 8.06 (s, 2H), 7.42 (s, 2H), 6.46 (d, J=5.5 Hz, 1H).

reactant | 2-chloropyrimidin-4-amine | ClC1=NC=CC(=N1)N | C4H4ClN3
reactant | 6-methyl-4-(2H-1,2,3-triazol-2-yl)pyridin-2-amine | CC1=CC(=CC(=N1)N)N1N=CC=N1 | C8H9N5
product | 2-(2H-1,2,3-triazol-2-yl)pyrimidin-4-amine | N=1N(N=CC1)C1=NC=CC(=N1)N | C6H6N6
